US09371319B2
N-(5-fluoropyridin-2-yl)-2-(1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridin-6-amine
DBU (10.8 μL, 0.072 mmol) was added to a solution of tert-butyl 4-(6-(5-fluoropyridin-2-ylamino)-1-(methylsulfonyl)-1H-pyrrolo[3,2-c]pyridin-2-yl)-1H-pyrazole-1-carboxylate (Preparation 54, 17 mg, 0.036 mmol) in DMF (240 μL). The reaction mixture was stirred for 1 hour at 50° C. and for 1 hour at 100° C. The reaction mixture was diluted with water and the aqueous layer was extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was then purified using preparative TLC eluting with 5% MeOH/aq NH3 10/1 in DCM to afford the title compound as a white solid (7 mg, 24%). 1H NMR (500 MHz, CD3OD): δ 6.66 (d, J=0.9 Hz, 1H), 7.18-7.21 (m, 1H), 7.46-7.50 (m, 1H), 7.71 (s, 1H), 8.03 (br s, 2H), 8.07-8.09 (m, 1H), 8.42 (d, J=0.9 Hz, 1H). ESI-HRMS Found 295.1103, calculated for C15H12FN6 [M+H]+: 295.1102. MPS1 IC50 (uM): 0.1586

reactant | DBU | 0.072 mmol, 10.8 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | tert-butyl 4-(6-(5-fluoropyridin-2-ylamino)-1-(methylsulfonyl)-1H-pyrrolo[3,2-c]pyridin-2-yl)-1H-pyrazole-1-carboxylate | 0.036 mmol, 17 mg | FC=1C=CC(=NC1)NC1=CC2=C(C=N1)C=C(N2S(=O)(=O)C)C=2C=NN(C2)C(=O)OC(C)(C)C | C21H21FN6O4S
solvent | DMF | 240 μL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(5-fluoropyridin-2-yl)-2-(1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridin-6-amine | 7 mg, 24% | FC=1C=CC(=NC1)NC1=CC2=C(C=N1)C=C(N2)C=2C=NNC2 | C15H11FN6
